US09193744B2
To 10% Pd/C (wet, 0.162 g) was added a solution of (3R,4aR,12bS)-8-bromo-9-(4-fluorophenyl)-3-(trifluoromethyl)-12b-vinyl-2,3,4,4a,5,6,9,12b-octahydro-1H-benzo[4,5]oxepino[3,2-f]indazol-3-ol; compound with (3S,4aS,12bR)-8-bromo-9-(4-fluorophenyl)-3-(trifluoromethyl)-12b-vinyl-2,3,4,4a,5,6,9,12b-octahydro-1H-benzo[4,5]oxepino[3,2-f]indazol-3-ol (107, R1=4-Fluorophenyl, R2=Vinyl, R3=Trifluoromethyl) (0.443 g, 0.843 mmol) and THF (8.0 mL). The mixture was placed under an hydrogen atmosphere using a balloon. After about 4 h, the hydrogen atmosphere was evacuated and the mixture was filtered through Celite® rinsing with THF (50 mL). The volatiles were removed under reduced pressure. The residue was purified on silica gel (24 g) using a gradient of 0-5% EtOAc in DCM. The fractions containing the product were combined and concentrated under reduced pressure to afford (3R,4aR,12bR)-8-bromo-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-2,3,4,4a,5,6,9,12b-octahydro-1H-benzo[4,5]oxepino[3,2-f]indazol-3-ol; compound with (3S,4aS,12bS)-8-bromo-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-2,3,4,4a,5,6,9,12b-octahydro-1H-benzo[4,5]oxepino[3,2-f]indazol-3-ol (108, R1=4-Fluorophenyl, R2=Ethyl, R3=Trifluoromethyl) (0.410 g, 92% yield) as an ivory solid. LC/MS, method 3, Rt=2.63 min, MS m/z 527 and 529 (M+H)+. 1H NMR (400 MHz, DMSO) δ 8.29 (s, 1H), 7.81 (s, 1H), 7.58-7.51 (m, 2H), 7.39-7.29 (m, 2H), 5.92 (s, 1H), 4.47-4.38 (m, 1H), 3.48-3.38 (m, 1H), 2.41-2.28 (m, 1H), 2.25-1.51 (m, 10H), 0.41 (t, J=7.3 Hz, 3H).

reactant | (3R,4aR,12bS)-8-bromo-9-(4-fluorophenyl)-3-(trifluoromethyl)-12b-vinyl-2,3,4,4a,5,6,9,12b-octahydro-1H-benzo[4,5]oxepino[3,2-f]indazol-3-ol; compound with (3S,4aS,12bR)-8-bromo-9-(4-fluorophenyl)-3-(trifluoromethyl)-12b-vinyl-2,3,4,4a,5,6,9,12b-octahydro-1H-benzo[4,5]oxepino[3,2-f]indazol-3-ol | BrC1=C2C(=CC=3C=NN(C13)C1=CC=C(C=C1)F)[C@@]1([C@@H](CCO2)C[C@](CC1)(O)C(F)(F)F)C=C.BrC1=C2C(=CC=3C=NN(C13)C1=CC=C(C=C1)F)[C@]1([C@H](CCO2)C[C@@](CC1)(O)C(F)(F)F)C=C | 2C24H21BrF4N2O2
catalyst | Pd/C | 0.162 g | [Pd] | Pd
solvent | THF | 8.0 mL | C1CCOC1 | C4H8O
product | (3R,4aR,12bR)-8-bromo-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-2,3,4,4a,5,6,9,12b-octahydro-1H-benzo[4,5]oxepino[3,2-f]indazol-3-ol; compound with (3S,4aS,12bS)-8-bromo-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-2,3,4,4a,5,6,9,12b-octahydro-1H-benzo[4,5]oxepino[3,2-f]indazol-3-ol | 92% yield | BrC1=C2C(=CC=3C=NN(C13)C1=CC=C(C=C1)F)[C@@]1([C@@H](CCO2)C[C@](CC1)(O)C(F)(F)F)CC.BrC1=C2C(=CC=3C=NN(C13)C1=CC=C(C=C1)F)[C@]1([C@H](CCO2)C[C@@](CC1)(O)C(F)(F)F)CC | 2C24H23BrF4N2O2
